### PR TITLE
[Merged by Bors] - feat(RingTheory/MvPolynomial): add eval results

### PR DESCRIPTION
**Pull request by mariainesdff**
Co-authored by: @AntoineChambert-Loir.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Eval.lean [hunk 1]
```diff
@@ -111,6 +111,10 @@ theorem eval₂_one : (1 : MvPolynomial σ R).eval₂ f g = 1 :=
 theorem eval₂_X (n) : (X n).eval₂ f g = g n := by
   simp [eval₂_monomial, f.map_one, X, prod_single_index, pow_one]
 
+theorem eval₂_X_pow {s : σ} {n : ℕ} : ((X s) ^ n).eval₂ f g = (g s) ^ n := by
+  rw [X_pow_eq_monomial, eval₂_monomial f g]
+  simp
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/Eval.lean]:
```suggestion
  simp [X_pow_eq_monomial, eval₂_monomial f g]
```
untested.

File: Mathlib/Algebra/MvPolynomial/Eval.lean [hunk 2]
```diff
@@ -523,6 +538,28 @@ lemma mem_range_map_iff_coeffs_subset {f : R →+* S₁} {x : MvPolynomial σ S
       obtain ⟨u, hu⟩ := hp hx.2
       exact ⟨q + u, by simp [hq, hu]⟩
 
+section Algebra
+
+variable [Algebra R S₁] (g : σ → S₁)
+
+variable (R) in
+/-- `MvPolynomial.eval₂ (algebraMap R S) g` as an `R`-algebra homomorphism. -/
+def eval₂AlgHom : MvPolynomial σ R →ₐ[R] S₁ :=
```
Comment (riccardobrasca) [inline Mathlib/Algebra/MvPolynomial/Eval.lean:546]: I wanted to check if this exists for one variable polynomials, and it's called `eval₂AlgHom'` for some reasons. If it's not too much work for this PR can you remove the `'`?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+
